US07262212B2
A mixture of 1-[2-(tetrahydropyran-2-yloxy)ethyl]-4-(4-trifluoromethylphenoxy)piperidine (1.69 g, 4.53 mmol) prepared in Reference Example 13 and pyridinium p-toluenesulfonate (114 mg, 0.45 mmol) in ethanol (50 ml) was stirred at 60 to 70° C. for 6 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, 10% sodium hydroxide aqueous solution was added, and the mixture was extracted with methylene chloride. The extract was washed with brine and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol=50/1) to afford 2-[4-(4-trifluoromethylphenoxy)piperidin-1-yl]ethanol (1.19 g, yield 91%) as a colorless oil.

reactant | 1-[2-(tetrahydropyran-2-yloxy)ethyl]-4-(4-trifluoromethylphenoxy)piperidine | 4.53 mmol, 1.69 g | O1C(CCCC1)OCCN1CCC(CC1)OC1=CC=C(C=C1)C(F)(F)F | C19H26F3NO3
reactant | pyridinium p-toluenesulfonate | 0.45 mmol, 114 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[4-(4-trifluoromethylphenoxy)piperidin-1-yl]ethanol | 1.19 g, yield 91% | FC(C1=CC=C(OC2CCN(CC2)CCO)C=C1)(F)F | C14H18F3NO2
